US06451810B1
According to the general method of Example 14, 1-(4-aminobutyl)-1H-imidazo[4,5-c]quinolin-4-amine and nicotinoyl chloride hydrochloride were combined to provide N3-[4-(4-amino-1H-imidazo[4,5-c]quinolin-1-yl)butyl]nicotinamide as a white powder, m.p. 188.6-189.5° C. 1H NMR (300 MHz, DMSO-d6) δ8.95 (dd, J=2.2, 0.7 Hz, 1H), 8.70-8.65 (m, 2H), 8.22 (s, 1H), 8.11 (dt, J=8.3, 2.0 Hz, 1H), 8.04 (dd, J=8.2, 0.9 Hz, 1H), 7.61 (dd, J=8.3, 1.1 Hz, 1H), 7.50-7.39 (m, 2H), 7.23-7.18 (m, 1H), 6.58 (broad s, 2H), 4.64 (t, J=7.0 Hz, 2H), 3.30 (m, 2H), 1.93 (m, 2H), 1.60 (m, 2H); MS (EI) m/e 360.1696 (360.1699 calcd for C20H20N6O).

reactant | 1-(4-aminobutyl)-1H-imidazo[4,5-c]quinolin-4-amine | NCCCCN1C=NC=2C(=NC=3C=CC=CC3C21)N | C14H17N5
reactant | nicotinoyl chloride hydrochloride | Cl.C(C1=CN=CC=C1)(=O)Cl
product | N3-[4-(4-amino-1H-imidazo[4,5-c]quinolin-1-yl)butyl]nicotinamide | NC1=NC=2C=CC=CC2C2=C1N=CN2CCCCNC(C2=CN=CC=C2)=O | C20H20N6O
